US05965591
3-(2-Aminoethoxy)-4-carbamoyl-5-fluoro-1,2-benzisoxazole hydrochloride
To a solution of 3-(2-(N-t-butoxycarbonylamino)ethoxy)-4-carboxy-5-fluoro-1,2-benzisoxazole (0.31 g) in tetrahydrofuran (20 ml) was added isobutyl chlorocarbonate (0.14 g) and triethylamine (0.11 g) with stirring at 5° C., and the mixture was then stirred for 15 minutes. Ammonia-saturated tetrahydrofuran solution (saturated at room temperature, 5 ml) was added to the reaction mixture and stirred for 15 minutes. The reaction mixture was poured into ice water (40 ml), extracted with diethylether (twice each with 40 ml) and the combined extracts were dried over anhydrous magnesium sulphate and filtered. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography with cyclohexane/ethyl acetate (4/1) as an eluent, to give title compound (0.24 g, 78% yield) as a colorless powder.

reactant | 3-(2-(N-t-butoxycarbonylamino)ethoxy)-4-carboxy-5-fluoro-1,2-benzisoxazole | 0.31 g | C(C)(C)(C)OC(=O)NCCOC1=NOC2=C1C(=C(C=C2)F)C(=O)O | C15H17FN2O6
reactant | isobutyl chlorocarbonate | 0.14 g | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | triethylamine | 0.11 g | C(C)N(CC)CC | C6H15N
reactant | Ammonia | 5 ml | N | H3N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(2-Aminoethoxy)-4-carbamoyl-5-fluoro-1,2-benzisoxazole hydrochloride | 0.24 g, 78% yield | Cl.NCCOC1=NOC2=C1C(=C(C=C2)F)C(N)=O | InChI=1S/C10H10FN3O3.ClH/c11-5-1-2-6-8(7(5)9(13)15)10(14-17-6)16-4-3-12;/h1-2H,3-4,12H2,(H2,13,15);1H
